US08134001B2
Preparation of intermediate 4-(2-formyl-4-trifluoromethyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-hydroxy-5-trifluoromethyl-benzaldehyde (1.36 g, 7.17 mmol), 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester (2.2 g, 7.88 mmol) and K2CO3 (2.96 g, 21.5 mmol) in anhydrous N,N-dimethylformamide (15 mL) was heated at 100° C. for 1 h. After cooled to room temperature, the mixture was filtered and the filtrate was concentrated. The residue was dissolved in DCM (50 mL). The solution was washed with water, dried over anhydrous Na2SO4 and concentrated. The residue was purified by chromatography to give the title compound (1.43 g).

reactant | 2-hydroxy-5-trifluoromethyl-benzaldehyde | 7.17 mmol, 1.36 g | OC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H5F3O2
reactant | 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | 7.88 mmol, 2.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | K2CO3 | 21.5 mmol, 2.96 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-(2-formyl-4-trifluoromethyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 1.43 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)C(F)(F)F)C=O | C18H22F3NO4
